US07547696B2
e.) 2-Amino-3-cyano-4-chloro-6-(morpholin-4-yl)quinoline
The mixture of 1.7 g of 2-amino-3-cyano-4-hydroxy-6-(morpholin-4-yl)quinoline and 3.4 mL of phosphoryl chloride is stirred at 120° C. for 4 hours. The cooled reaction mixture is poured onto 30 g of ice, the pH of the mixture is adjusted to 8 with 10% NaOH solution, and the precipitated material is filtered off. After drying 1.5 g of the title compound is obtained, m.p.: 206° C.

reactant | 2-amino-3-cyano-4-hydroxy-6-(morpholin-4-yl)quinoline | 1.7 g | NC1=NC2=CC=C(C=C2C(=C1C#N)O)N1CCOCC1 | C14H14N4O2
reactant | phosphoryl chloride | 3.4 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | NaOH | [OH-].[Na+]
product | 2-Amino-3-cyano-4-chloro-6-(morpholin-4-yl)quinoline | NC1=NC2=CC=C(C=C2C(=C1C#N)Cl)N1CCOCC1 | C14H13ClN4O
